US09260397B2
1-mesityl-3-octyl-imidazolium hexafluorophosphate
According to the general synthesis procedure, 0.66 mmol (0.252 g) 1-mesityl-3-octyl imidazolium bromide is dissolved in 6 ml water and 3 ml methanol and 0.73 mmol (0.120 g) ammonium hexafluorophosphate is added.

reactant | 1-mesityl-3-octyl imidazolium bromide | 0.66 mmol, 0.252 g | [Br-].C1(=C(C(=CC(=C1)C)C)[N+]1=CN(C=C1)CCCCCCCC)C
reactant | methanol | 3 ml | CO | CH4O
reactant | ammonium hexafluorophosphate | 0.73 mmol, 0.120 g | F[P-](F)(F)(F)(F)F.[NH4+]
solvent | water | 6 ml | O | H2O
product | 1-mesityl-3-octyl-imidazolium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C1(=C(C(=CC(=C1)C)C)[N+]1=CN(C=C1)CCCCCCCC)C | InChI=1S/C20H31N2.F6P/c1-5-6-7-8-9-10-11-21-12-13-22(16-21)20-18(3)14-17(2)15-19(20)4;1-7(2,3,4,5)6/h12-16H,5-11H2,1-4H3;/q+1;-1
